US09253997B2
Synthesis of (2S)-2-amino-4-[(5-chloro-2-hydroxy-3-sulfophenyl)carbamoyl]butanoic acid
101 mg (0.33 mmol) of Boc-Glu-OtBu, 130 mg (0.33 mmol) of HATU, 45 mg (0.33 mmol) of HOAt and 77 mg (0.33 mmol) of 3-amino-5-chloro-2-hydroxybenzenesulfonic acid were suspended in 2.0 ml of DMF, to which 0.5 ml of pyridine was added and stirred at room temperature overnight. After distilling the solvent away, purification step A was used to obtain an intermediate. This crude product was dissolved in 2.0 ml of TFA and stirred at room temperature for 90 minutes. After distilling the solvent away, purification step A was used to obtain the title compound.

reactant | Boc-Glu-OtBu | 0.33 mmol, 101 mg | N([C@@H](CCC(O)=O)C(=O)OC(C)(C)C)C(=O)OC(C)(C)C | C14H25NO6
reactant | HATU | 0.33 mmol, 130 mg | CN(C)C(=[N+](C)C)ON1C2=C(C=CC=N2)N=N1.F[P-](F)(F)(F)(F)F
reactant | HOAt | 0.33 mmol, 45 mg | C1=CC2=C(N=C1)N(N=N2)O | C5H4N4O
reactant | 3-amino-5-chloro-2-hydroxybenzenesulfonic acid | 0.33 mmol, 77 mg | NC=1C(=C(C=C(C1)Cl)S(=O)(=O)O)O | C6H6ClNO4S
solvent | DMF | 2.0 ml | CN(C)C=O | C3H7NO
solvent | TFA | 2.0 ml | C(=O)(C(F)(F)F)O | C2HF3O2
solvent | pyridine | 0.5 ml | N1=CC=CC=C1 | C5H5N
product | (2S)-2-amino-4-[(5-chloro-2-hydroxy-3-sulfophenyl)carbamoyl]butanoic acid | N[C@H](C(=O)O)CCC(NC1=C(C(=CC(=C1)Cl)S(=O)(=O)O)O)=O | C11H13ClN2O7S
